US05866583
A solution of 3.48 g of 4-(3,4-dihydro-isoquinolin-1-yl)-benzonitrile in 90 ml of methanol was cooled to 5° C. while stirring and treated with 1.7 g of sodium borohydride within 30 min. After completion of the addition, the mixture was stirred at 5° C. for a further 30 min. Subsequently, 50 ml of water were slowly added dropwise and the mixture was stirred at room temperature for a further 10 min. The mixture was diluted with water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated. 3.15 g of crystalline (RS)-4-(1,2,3,4-tetrahydro-isoquinolin-1-yl)-benzonitrile were obtained. Recrystallization of a sample from diisopropyl ether gave colorless crystals of m.p. 94°-97° C.

reactant | 4-(3,4-dihydro-isoquinolin-1-yl)-benzonitrile | 3.48 g | C1(=NCCC2=CC=CC=C12)C1=CC=C(C#N)C=C1 | C16H12N2
reactant | sodium borohydride | 1.7 g | [BH4-].[Na+]
solvent | methanol | 90 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | (RS)-4-(1,2,3,4-tetrahydro-isoquinolin-1-yl)-benzonitrile | 3.15 g | C1(NCCC2=CC=CC=C12)C1=CC=C(C#N)C=C1 | C16H14N2
